US08664401B2
Step A) Trans-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclobutanol
A solution of trans-3-(4-bromophenyl)cyclobutanol (0.500 g, 2.20 mmol), bis(pinacolato)diborane (0.671 g, 2.64 mmol), potassium acetate (0.864 g, 8.81 mmol) and [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) dcm complex (89.9 mg, 0110 mmol) in 1,4-dioxane (20 mL) was heated to reflux overnight. After 16 hours the reaction was cooled to room temperature, diluted with ethyl acetate and filtered through celite. The filtrate was concentrated, the resulting residue was partitioned between ether and water, and an emulsion was removed by filtration. The layers in the filtrate were separated; the organic layer was washed with water (2×) then brine (1×). The organic layer was dried (Na2SO4), filtered and concentrated. Purification on a Biotage SNAP cartridge Kp-sil 25 g column (hexanes/ethyl acetate=8:2) afforded the title compound as a clear oil (508 mg, 84%).

reactant | trans-3-(4-bromophenyl)cyclobutanol | 2.20 mmol, 0.500 g | BrC1=CC=C(C=C1)[C@@H]1C[C@H](C1)O | C10H11BrO
reactant | bis(pinacolato)diborane | 2.64 mmol, 0.671 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.81 mmol, 0.864 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Trans-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclobutanol | 508 mg, 84% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)[C@@H]1C[C@H](C1)O)C | C16H23BO3
